US04585774
4.3 Grams of piperazine was added to 50 ml of ethanol, to this solution was added 2.3 g of methyl o-(α-chloroacetylamino)benzoate at a temperature of 40°-50° C. with stirring. The reaction mixture was stirred at the same temperature for 3 hours, then the reaction mixture was concentrated, to the obtained residue was added 20 ml of water, then saturated with sodium chloride, and extracted with chloroform. The chloroform layer was washed with a 10%-sodium hydroxide solution, then washed with a small amount of water and dried. After removal of the solvent by distillation, the residue obtained was purified by a silica gel column chromatography, and recrystallized from ether to obtain 2 g of o-methoxycarbonyl-α-(1-piperazinyl)-acetanilide in the form of colorless needle-like crystals. Melting point: 94°-96° C.

reactant | piperazine | N1CCNCC1 | C4H10N2
reactant | methyl o-(α-chloroacetylamino)benzoate | 2.3 g | ClCC(=O)NC1=C(C(=O)OC)C=CC=C1 | C10H10ClNO3
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | o-methoxycarbonyl-α-(1-piperazinyl)-acetanilide | 2 g | COC(=O)C1=C(NC(CN2CCNCC2)=O)C=CC=C1 | C14H19N3O3
